US06303593B1
3-(4-Fluorophenyl)propanol
A mixture of 2.5 g (15 mmol) of 4-fluorocinnamic acid and 0.06 g of (PPh3)3RhCl (Wilkinson's catalyst) in 5 mL of Et3SiH was heated at 100° C. for 3 h. The reaction mixture was cooled to rt, and to it was added 20 mL of THF and 30 mL (30 mmol) of LiAlH4 (1 M in THF) and the reaction mixture was stirred at 40° C. for 3 h. The reaction mixture was cooled to rt and to it was successively added 3 mL of H2O, 3 mL of 15% KOH solution and 3 mL of H2O. The reaction mixture was filtered and the Al-salts were washed with ethyl acetate. The combined organic fraction was dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, hexanes: ethyl acetate, 4:1) to give 2.26 g of the title compound.

reactant | 4-fluorocinnamic acid | 15 mmol, 2.5 g | FC1=CC=C(C=CC(=O)O)C=C1 | C9H7FO2
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | LiAlH4 | 30 mmol, 1 M, 30 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | KOH | 3 mL | [OH-].[K+]
solvent | Et3SiH | 5 mL | [SiH](CC)(CC)CC | C6H16Si
solvent | H2O | 3 mL | O | H2O
solvent | H2O | 3 mL | O | H2O
product | 3-(4-Fluorophenyl)propanol | 2.26 g | FC1=CC=C(C=C1)CCCO | C9H11FO
